US04786644
A solution of 8.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-pyrazinyl)-3-quinolinecarboxamide in 250 ml of chloroform was treated with 33.0 g of activated manganese dioxide and stirred for six hours at room temperature. The slurry was filtered and evaporated. Recrystallization of the residue from chloroform yielded 5.46 g (90%) of 1,4-dihydro-4-oxo-1-phenyl-N-(2-pyrazinyl)-3-quinolinecarboxamide, m.p. 298°-300° C.

reactant | 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-pyrazinyl)-3-quinolinecarboxamide | 8.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=CN=C1 | C20H16N4O2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 33.0 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-4-oxo-1-phenyl-N-(2-pyrazinyl)-3-quinolinecarboxamide | 5.46 g, 90% | O=C1C(=CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=CN=C1 | C20H14N4O2
